US05304560
A mixture of 1-(4-chlorobutyl)-2,4(1H,3H)-quinazolinedione (160 mg), N-(2-propoxyphenyl)piperazine hydrochloride (178 mg), potassium iodide (105 mg), and sodium carbonate (200 mg) in methyl isobutyl ketone (15 ml) was refluxed for 5 hours. After dilution with ethyl acetate, the reaction mixture was washed in turn with water and brine, dried over magnesium sulfate, and evaporated. The residue was chromatographed on silica gel (15 g) eluting with chloroform-methanol (50:1 V/V) to give 1-[4-{4-(2-propoxyphenyl)piperazin-1-yl}butyl]-2,4(1H,3H)-quinazolinedione (266 mg).

reactant | 1-(4-chlorobutyl)-2,4(1H,3H)-quinazolinedione | 160 mg | ClCCCCN1C(NC(C2=CC=CC=C12)=O)=O | C12H13ClN2O2
reactant | N-(2-propoxyphenyl)piperazine hydrochloride | 178 mg | Cl.C(CC)OC1=C(C=CC=C1)N1CCNCC1
reactant | potassium iodide | 105 mg | [I-].[K+]
reactant | sodium carbonate | 200 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methyl isobutyl ketone | 15 ml | C(C(C)C)C(=O)C | C6H12O
product | 1-[4-{4-(2-propoxyphenyl)piperazin-1-yl}butyl]-2,4(1H,3H)-quinazolinedione | 266 mg | C(CC)OC1=C(C=CC=C1)N1CCN(CC1)CCCCN1C(NC(C2=CC=CC=C12)=O)=O | C25H32N4O3
